US08076516B2
A mixture of cyclohexylmercaptan (1.09 mL, 8.89 mmol), 3-bromobenzyl bromide (2.22 g, 8.882 mmol) and K2CO3 (2.54 g, 18.38 mmol) in acetone was stirred under argon at room temperature for 4 hrs then filtered. The filtrate was concentrated under reduced pressure. Purification by flash chromatography (0% to 20% EtOAc—hexanes gradient) gave (3-bromobenzyl)(cyclohexyl)sulfane as a colorless oil. Yield (2.02 g, 80%); 1H NMR (400 MHz, CDCl3) δ 7.48 (t, J=1.8 Hz, 1H), 7.33-7.37 (m, 1H), 7.22-7.26 (m, 1H), 7.16 (t, J=7.8 Hz, 1H), 3.68 (s, 2H), tt, J=3.33, 10.0 Hz, 1H), 1.87-1.96 (m, 2H), 1.69-1.77 (m, 2H), 1.53-1.61 (m, 1H), 1.18-1.38 (m, 5H).

reactant | cyclohexylmercaptan | 8.89 mmol, 1.09 mL | C1(CCCCC1)S | C6H12S
reactant | 3-bromobenzyl bromide | 8.882 mmol, 2.22 g | BrC=1C=C(CBr)C=CC1 | C7H6Br2
reactant | K2CO3 | 18.38 mmol, 2.54 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | (3-bromobenzyl)(cyclohexyl)sulfane | BrC=1C=C(CSC2CCCCC2)C=CC1 | C13H17BrS
